US04066773
To a stirred solution of 29.8 g of NG -nitro-N2 -(tert-butoxycarbonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester in 50 ml of ethyl acetate was added 80 ml of 10% dry HCl-ethyl acetate at 0° C. After 3 hours, to this solution was added 200 ml of dry ethyl ether to precipitate a viscous oily product. This was filtered and washed with dry ethyl ether to give 24.1 g of NG -nitro-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester hydrochloride as an amorphous solid.

reactant | nitro-N2 -(tert-butoxycarbonyl)-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester | C(C)OC(CN(CCOC)C([C@@H](N(C(=O)OC(C)(C)C)[N+](=O)[O-])CCCNC(N)=N)=O)=O | C18H34N6O8
reactant | HCl ethyl acetate | 80 ml | Cl.C(C)(=O)OCC
reactant | ethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | nitro-L-arginyl-N-(2-methoxyethyl)glycine ethyl ester hydrochloride | Cl.C(C)OC(CN(CCOC)C([C@@H](N[N+](=O)[O-])CCCNC(N)=N)=O)=O | InChI=1S/C13H26N6O6.ClH/c1-3-25-11(20)9-18(7-8-24-2)12(21)10(17-19(22)23)5-4-6-16-13(14)15;/h10,17H,3-9H2,1-2H3,(H4,14,15,16);1H/t10-;/m0./s1
